US08809538B2
2-oxo-1,2-dihydropyridine-3-carbothioamide
To a suspension of 2-oxo-1,2-dihydropyridine-3-carbonitrile (0.211 g) in methanol (14 mL) was added a 40% aqueous solution of ammonium sulfide (0.50 mL). The reaction mixture was heated at 130° C. in a microwave reactor for 2 hours. The reaction mixture was concentrated. The residue obtained was triturated with methanol and the solid filtered to obtain the title compound (0.174 g) having the following physical data.

reactant | 2-oxo-1,2-dihydropyridine-3-carbonitrile | 0.211 g | O=C1NC=CC=C1C#N | C6H4N2O
reactant | ammonium sulfide | 0.50 mL | [NH4+]=S
solvent | methanol | 14 mL | CO | CH4O
product | 2-oxo-1,2-dihydropyridine-3-carbothioamide | 0.174 g | O=C1NC=CC=C1C(N)=S | C6H6N2OS
